US04333928
A solution of 1.5 g of 17β-acetoxy-16α-propyl-5(10),9(11)-estradien-3-one in 100 ml of methylene chloride is dehydrogenated with 1.8 g of dichlorodicyano-p-benzoquinone under the conditions of Example 1. After crystallization from diisopropyl ether, 1.4 g of 17β-acetoxy-16α-propyl-4,9,11-estratrien-3-one is obtained, m.p. 108°-109° C.

reactant | 17β-acetoxy-16α-propyl-5(10),9(11)-estradien-3-one | 1.5 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@H]1CCC)[C@@H]1CCC=3CC(CCC3C1=CC2)=O | C23H32O3
reactant | dichlorodicyano-p-benzoquinone | 1.8 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 17β-acetoxy-16α-propyl-4,9,11-estratrien-3-one | 1.4 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@H]1CCC)[C@@H]1CCC3=CC(CCC3=C1C=C2)=O | C23H30O3
